US07160922B2
Combine a slurry of 0.176 kg of 10% Pd—C (50% water wet) and 1.7 kg of biphenyl-4-carboxylic acid (R)-(6-nitro-2(R)-hydroxyindan-1-yl)amide in 17.5 L of DMF with hydrogen (50 psi, 345 kPa). After 19 h, filter the reaction mixture, add a portion of the DMF solution (5 L) to water (10 L), and stir the slurry for 2 h—repeat twice to work up the entire reaction volume. Filter the slurries together, and wash the resulting filter cake with water (3×7 L). Dry the filter cake to afford 1.42 kg of biphenyl-4-carboxylic acid (R)-(6-amino-2(R)-hydroxyindan-1-yl)amide.

reactant | biphenyl-4-carboxylic acid (R)-(6-nitro-2(R)-hydroxyindan-1-yl)amide | 1.7 kg | [N+](=O)([O-])C1=CC=C2C[C@H]([C@@H](C2=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)O | C22H18N2O4
reactant | hydrogen | [H][H] | H2
solvent | DMF | 17.5 L | CN(C)C=O | C3H7NO
catalyst | Pd—C | 0.176 kg | [Pd] | Pd
product | biphenyl-4-carboxylic acid (R)-(6-amino-2(R)-hydroxyindan-1-yl)amide | 1.42 kg | NC1=CC=C2C[C@H]([C@@H](C2=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)O | C22H20N2O2
